US07776875B2
Preparation of Racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-cyclobutylcarbamoyl-1-methyl-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
To a mixture of racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(2-hydroxy-1,1-dimethyl-ethoxy)-phenyl]-2′-[5-fluoro-2-methylphenyl]-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (35 mg, 0.06 mmol), EDCl (18 mg, 0.094 mmol), HOBt (14 mg, 0.094 mmol) and DIPEA (23 mg, 0.2 mmol) in THF (1 mL) was added cyclobutylamine (13 mg, 0.18 mmol). The mixture was stirred at room temperature overnight, purified by prep-HPLC to give the title compound as a white solid (16 mg).

reactant | racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(2-hydroxy-1,1-dimethyl-ethoxy)-phenyl]-2′-[5-fluoro-2-methylphenyl]-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.06 mmol, 35 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(CO)(C)C)=O)C1=C(C=CC(=C1)F)C)=O | C29H27Cl2FN2O4
reactant | EDCl | 0.094 mmol, 18 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.094 mmol, 14 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.2 mmol, 23 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclobutylamine | 0.18 mmol, 13 mg | C1(CCC1)N | C4H9N
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | Racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-cyclobutylcarbamoyl-1-methyl-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 16 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C)(C)C(NC1CCC1)=O)=O)C1=C(C=CC(=C1)F)C)=O | C33H32Cl2FN3O4
